US05856504
In a 300 ml four-necked flask equipped with a stirrer, a thermometer, and a condenser, 100 g of monochlorobenzene was placed in advance, to which 33.4 g (0.2 mol) of 2-(methylthio)benzaldehyde oxime was added under nitrogen atmosphere. 25.2 g (0.21 mol) Of thionyl chloride was added dropwise thereto while stirring at a temperature of from -10° to -15° C. and allowed to react for 1 hour at the same temperature. After the termination of the reaction, 15.6 g (0.22 mol) of chlorine was continuously blown into the reaction mixture while stirring at a temperature of from 70° to 80° C. and allowed to react for 1 hour at the same temperature. After the termination of the reaction, the solvent was distilled off to give 33.1 g of 3-chloro-1,2-benzisothiazole.

reactant | 2-(methylthio)benzaldehyde oxime | 0.2 mol, 33.4 g | CSC1=C(C=NO)C=CC=C1 | C8H9NOS
reactant | thionyl chloride | 0.21 mol, 25.2 g | S(=O)(Cl)Cl | Cl2OS
reactant | chlorine | 0.22 mol, 15.6 g | ClCl | Cl2
solvent | monochlorobenzene | 100 g | ClC1=CC=CC=C1 | C6H5Cl
product | 3-chloro-1,2-benzisothiazole | 33.1 g | ClC1=NSC2=C1C=CC=C2 | C7H4ClNS
